US09120749B2
{6-Bromo-4-[6-((dimethylamino)methyl)pyridin-3-ylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (330 mg, 1.06 mmol) was reacted with 6-[(dimethylamino)methyl]pyridin-3-amine (200 mg, 1.32 mmol) to afford the desired product (37 mg, 8%) as an orange oil: ESI MS m/z 425 [C21H21BrN4O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.06 mmol, 330 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 6-[(dimethylamino)methyl]pyridin-3-amine | 1.32 mmol, 200 mg | CN(C)CC1=CC=C(C=N1)N | C8H13N3
product | {6-Bromo-4-[6-((dimethylamino)methyl)pyridin-3-ylamino]quinolin-3-yl}(cyclopropyl)methanone | 37 mg, 8% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)CN(C)C | C21H21BrN4O
